US05189054
Preparation of 3-[(Phenacyl)amino]-2-carboxy-6-chloroindole
Dissolve 3-[(phenacyl)amino]-2-carbmethoxy-6-chloroindole (480 mg, 1.46 mmol) in tetrahydrofuran/water (20 mL, 1/1). Add lithium hydroxide monohydrate (316 mg, 2.92 mmol). Seal the flask and warm to 60° C. for 3 hours. Dilute with ethyl acetate/water (50 mL/50 mL) and separate the organic phase. Acidify the aqueous phase and extract with ethyl acetate. Dry (MgSO4) the combined organic phases and concentrate in vacuo. Precipitate with hexane to give the title compound; first crop (289 mg, 63%) and second crop (74 mg, 16%); mp 205°-210° C. (dec).

reactant | 3-[(phenacyl)amino]-2-carbmethoxy-6-chloroindole | 1.46 mmol, 480 mg | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C18H15ClN2O3
reactant | lithium hydroxide monohydrate | 2.92 mmol, 316 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 20 mL | O1CCCC1.O
solvent | ethyl acetate water | 50 mL | C(C)(=O)OCC.O
product | 3-[(Phenacyl)amino]-2-carboxy-6-chloroindole | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)Cl)C(=O)O | C17H13ClN2O3
